US07935724B2
5-Dibenzylamino-benzo[b]thiophene-2-carboxylic acid ethyl ester.
Ethyl 5-aminobenzothiophene -2-carboxylate (74 mg, 0.344 mmol) was dissolved in 1 mL of anhydrous DMF and reacted with benzyl bromide (100 μL, 0.84 mmol) in the presence of potassium carbonate (97 mg, 0.70 mmol) at 80° C. under a nitrogen atmosphere for 16 h. The reaction mixture was diluted with water and sat. sodium bicarbonate and extracted with ethyl acetate. The organic phase was dried over sodium sulfate. The solvent was removed under reduced pressure and the crude left under high vacuum overnight. It was used in the next step without further purification. MS (EI): cal'd 402 (MH+), exp 402 (MH+).

reactant | Ethyl 5-aminobenzothiophene -2-carboxylate | 0.344 mmol, 74 mg | NC=1C=CC2=C(C=C(S2)C(=O)OCC)C1 | C11H11NO2S
reactant | benzyl bromide | 0.84 mmol, 100 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.70 mmol, 97 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-Dibenzylamino-benzo[b]thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)N(CC2=CC=CC=C2)CC2=CC=CC=C2 | C25H23NO2S
